US07235537B2
Step D: O-(2-Morpholin-4-yl-ethyl)-hydroxylamine dihydrochloride
To a solution of (2-morpholin-4-yl-ethoxy)-carbamic acid tert-butyl ester (118 mg, 0.48 mmol) in MeOH (1 mL) is added 4 M dioxane solution of HCl (2.4 mL, 9.60 mmol) at room temperature. The resulting solution is stirred for 16 hours at room temperature. After addition of additional HCl (2.4 mL) followed by stirring for 4 hours, the reaction mixture is concentrated in vacuo to give yellow solids (82 mg, 78%).

reactant | (2-morpholin-4-yl-ethoxy)-carbamic acid tert-butyl ester | 0.48 mmol, 118 mg | C(C)(C)(C)OC(NOCCN1CCOCC1)=O | C11H22N2O4
reactant | dioxane | 4 M | O1CCOCC1 | C4H8O2
reactant | HCl | 9.60 mmol, 2.4 mL | Cl | ClH
reactant | HCl | 2.4 mL | Cl | ClH
solvent | MeOH | 1 mL | CO | CH4O
product | O-(2-Morpholin-4-yl-ethyl)-hydroxylamine dihydrochloride | 82 mg, 78% | Cl.Cl.N1(CCOCC1)CCON | InChI=1S/C6H14N2O2.2ClH/c7-10-6-3-8-1-4-9-5-2-8;;/h1-7H2;2*1H
